US08669234B2
{1-[2-(6-Bromo-1H-benzoimidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester:
Prepared by the same method as (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester but using 6-bromo-2-pyrrolidin-2-yl-1H-benzoimidazole as the substrate. 193 mg crude solid were used for the next step.

reactant | (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | 6-bromo-2-pyrrolidin-2-yl-1H-benzoimidazole | BrC=1C=CC2=C(NC(=N2)C2NCCC2)C1 | C11H12BrN3
product | {1-[2-(6-Bromo-1H-benzoimidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)Br)=O | C18H23BrN4O3
